US04710491
N-Dodecyl-N-(2-amino-2-deoxy-glucopyranosyl)-amine hydrochloride
46 g of dodecylamine were melted at 60° and 31 g of glucosamine hydrochloride were added, with stirring. After cooling to room temperature, the product precipitated. The solid was extracted three times by stirring with ether and filtered off with suction and then dried under a high vacuum.

reactant | dodecylamine | 46 g | C(CCCCCCCCCCC)N | C12H27N
reactant | glucosamine hydrochloride | 31 g | Cl.OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO
product | N-Dodecyl-N-(2-amino-2-deoxy-glucopyranosyl)-amine hydrochloride | Cl.C(CCCCCCCCCCC)NC1[C@@H]([C@@H](O)[C@H](O)[C@H](O1)CO)N | InChI=1S/C18H38N2O4.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-20-18-15(19)17(23)16(22)14(13-21)24-18;/h14-18,20-23H,2-13,19H2,1H3;1H/t14-,15-,16-,17-,18?;/m1./s1
